US03971819
B. 3-benzylamino-5-dimethylsulphamyl-4-phenoxy-benzoic acid
Ethyl 3-benzylamino-5-dimethylsulphamyl-4-phenoxy-benzoate (1 g) was heated on a steam bath with 1N sodium hydroxide (15 ml) for 6 hours. From the resulting solution, the 3-benzylamino-5-dimethylsulphamyl-4-phenoxy-benzoic acid was precipitated by addition of 4N hydrochloric acid until a pH of 2.5. After isolating and recrystallizing from aqueous ethanol, the compound was obtained with a melting point of 205-206°C.

reactant | Ethyl 3-benzylamino-5-dimethylsulphamyl-4-phenoxy-benzoate | 1 g | C(C1=CC=CC=C1)NC=1C=C(C(=O)OCC)C=C(C1OC1=CC=CC=C1)S(N(C)C)(=O)=O | C24H26N2O5S
reactant | sodium hydroxide | 1N, 15 ml | [OH-].[Na+]
product | 3-benzylamino-5-dimethylsulphamyl-4-phenoxy-benzoic acid | C(C1=CC=CC=C1)NC=1C=C(C(=O)O)C=C(C1OC1=CC=CC=C1)S(N(C)C)(=O)=O | C22H22N2O5S
